US09382237B2
Synthesis of 3-((3-chlorophenyl)amino)-5-(((4,5,6,7-tetrafluoro-1H-indol-3-yl)methyl)amino)-1H-pyrazole-4-carboxamide D22
5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide (100 mg) was then suspended in EtOH (4 mL) and 4,5,6,7-tetrafluoro-1H-indole-3-carbaldehyde (1 eq.) and piperidine (1 drop) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain product as a yellow powder. Powder was washed with EtOH. Product was allowed to dry under vacuum for 1 hr. Resulting imine was suspended in 5 mL MeOH and sodium borohydride (3 eq.) was added. HPLC confirmed reaction was complete (absence of imine). After completion (1 hr), precipitate was filtered to obtain D22 as a light yellow powder as product. Product was washed with deionized water to remove excess sodium borohydride.

reactant | 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide | 100 mg | NC1=C(C(=NN1)NC1=CC(=CC=C1)Cl)C(=O)N | C10H10ClN5O
reactant | 4,5,6,7-tetrafluoro-1H-indole-3-carbaldehyde | 1 eq. | FC1=C2C(=CNC2=C(C(=C1F)F)F)C=O | C9H3F4NO
reactant | sodium borohydride | 3 eq. | [BH4-].[Na+]
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
product | 3-((3-chlorophenyl)amino)-5-(((4,5,6,7-tetrafluoro-1H-indol-3-yl)methyl)amino)-1H-pyrazole-4-carboxamide | ClC=1C=C(C=CC1)NC1=NNC(=C1C(=O)N)NCC1=CNC2=C(C(=C(C(=C12)F)F)F)F | C19H13ClF4N6O
